US08877801B2
To a 30 mL vial containing a mixture of (E)-methyl 3-(4-((2-(4-hydroxyphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylate and (E)-methyl 3-(4-((6-hydroxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylate (32 mg, 0.07 mmol) in THF (3 mL), MeOH (1 mL), and H2O (2 mL) was added LiOH (9.14 mg, 0.38 mmol). The reaction mixture was stirred for 60 min at room temperature and then concentrated in vacuo, diluted with water, and acidified to pH 2 with 6 M HCl causing a precipitate to form. The mixture was diluted with 20 mL DCM and 2 mL MeOH. The organic layer was collected (phase separator) and concentrated in vacuo to afford the crude product. The sample was purified by supercritical fluid chromatography (CHIRALCEL® OJ-H column, 45% MeOH in CO2) to afford (E)-3-(4-((6-hydroxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid (17 mg, 0.04 mmol, 53% yield) as a white solid. 1H NMR (400 MHz, (CD3)2SO) δ ppm=7.64 (d, J=8.59 Hz, 2H), 7.55-7.62 (m, 2H), 7.51 (d, J=16.17 Hz, 1H), 7.30 (d, J=2.02 Hz, 1H), 7.13 (d, J=8.59 Hz, 1H), 6.90-7.04 (m, 4H), 6.83 (dd, J=2.02, 8.59 Hz, 1H), 6.38 (d, J=16.17 Hz, 1H), 3.75 (s, 3H). LC/MS (m/z, M-H): 417.5.

reactant | (E)-methyl 3-(4-((2-(4-hydroxyphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylate | OC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(C=C2)/C=C/C(=O)OC | C25H20O5S
reactant | (E)-methyl 3-(4-((6-hydroxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylate | 0.07 mmol, 32 mg | OC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)OC)C2=CC=C(C=C2)OC)C1 | C25H20O5S
reactant | H2O | 2 mL | O | H2O
reactant | LiOH | 0.38 mmol, 9.14 mg | [Li+].[OH-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2 mL | CO | CH4O
product | (E)-3-(4-((6-hydroxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid | 0.04 mmol, 17 mg, 53% yield | OC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)O)C2=CC=C(C=C2)OC)C1 | C24H18O5S
